US03957989
2,7-BIS(4-PIPERIDINOBUTYRYL)XANTHENE
A mixture of 19.6 g (0.05 mole) of 2,7-bis(4-chlorobutyryl)-xanthene, 34.0 g (0.4 mole) of piperidine, 16.6 g (0.1 mole) of potassium iodide and 200 ml. of butanone was refluxed with stirring for 21/2 days. The reaction mixture was poured into 1000 ml. of water, and the solid which precipitated was filtered and recrystallized from methylene chloride-acetone then from acetone to give the desired product. M.P. 115°-117°C.

reactant | 2,7-bis(4-chlorobutyryl)-xanthene | 0.05 mole, 19.6 g | ClCCCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCCCl)=O | C21H20Cl2O3
reactant | piperidine | 0.4 mole, 34.0 g | N1CCCCC1 | C5H11N
reactant | potassium iodide | 0.1 mole, 16.6 g | [I-].[K+]
solvent | butanone | CC(CC)=O | C4H8O
product | 2,7-BIS(4-PIPERIDINOBUTYRYL)XANTHENE | N1(CCCCC1)CCCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCCN1CCCCC1)=O | C31H40N2O3
